US07381736B2
[(2-Bromo-4-bromomethyl-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester:
A solution of [(2-bromo-4-methyl-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester (10.93 g, 30.6 mmol), N-bromosuccinimide (5.45 g, 30.6 mmol) and AIBN (100 mg) in benzene (300 mL) was refluxed for 18 h. The reaction mixture was concentrated in vacuo and redissolved in Ethyl acetate (200 mL). The solution was washed with H2O (50 mL), HCl (1 N, 50 mL), NaHCO3 (5%, 50 mL) and H2O (50 mL). The solvent was removed and the residue was purified by column chromatography on silica gel, eluting with hexanes/EtOAc (4:1) to provide a colorless oil (9.6 g, 80% purity with starting material as byproduct), which was taken on to the next step without further purification.

reactant | [(2-bromo-4-methyl-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester | 30.6 mmol, 10.93 g | C(C)OP(OCC)(=O)C(F)(F)C1=C(C=C(C=C1)C)Br | C12H16BrF2O3P
reactant | N-bromosuccinimide | 30.6 mmol, 5.45 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 100 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | [(2-Bromo-4-bromomethyl-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(F)(F)C1=C(C=C(C=C1)CBr)Br | C12H15Br2F2O3P
